US07605177B2
To a solution of BOC-proline (Anderson G W and McGregor A C: J. Amer. Chem. Soc.: 79, 6810, 1994) (10 mmol) in dichloromethane (50 ml), cooled to 0° C., was added triethylamine (1.39 ml, 10 mmol) and ethyl chloroformate (0.96 ml, 10 mmol). The resultant mixture was stirred at 0° C. for 30 minutes. A solution of dibenzyl-L-glutamate (10 mmol) was then added and the mixture stirred at 0° C. for 2 hours then warmed to room temperature and stirred overnight. The reaction mixture was washed with aqueous sodium bicarbonate and citric acid (2 mol l−1) then dried (MgSO4) and concentrated at reduced pressure to give BOC-L-proline-L-glutamic acid dibenzyl ester (5.0 g, 95%).

reactant | BOC-proline | 10 mmol | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | triethylamine | 10 mmol, 1.39 ml | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 10 mmol, 0.96 ml | ClC(=O)OCC | C3H5ClO2
reactant | dibenzyl-L-glutamate | 10 mmol | C(C1=CC=CC=C1)OC([C@@H](N)CCC(=O)OCC1=CC=CC=C1)=O | C19H21NO4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | BOC-L-proline L-glutamic acid dibenzyl ester | 5.0 g, 95% | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)OC([C@@H](N)CCC(=O)OCC1=CC=CC=C1)=O | InChI=1S/C19H21NO4.C10H17NO4/c20-17(19(22)24-14-16-9-5-2-6-10-16)11-12-18(21)23-13-15-7-3-1-4-8-15;1-10(2,3)15-9(14)11-6-4-5-7(11)8(12)13/h1-10,17H,11-14,20H2;7H,4-6H2,1-3H3,(H,12,13)/t17-;7-/m00/s1
